US08937092B2
To a stirred solution of ethyl 2-(4-amino-3-methoxyphenyl)propanoate (447 mg, 2.002 mmol) in acetonitrile and water were added p-toluenesulfonic acid monohydrate (1.142 g, 6.006 mmol), sodium nitrite (276 mg, 4.004 mmol) and potassium iodide (831 mg, 5.005 mmol). The reaction mixture was stirred for 4 h at room temperature. The mixture dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(4-iodo-3-methoxyphenyl)propanoate (468 mg) was obtained as 70% yield.

reactant | ethyl 2-(4-amino-3-methoxyphenyl)propanoate | 2.002 mmol, 447 mg | NC1=C(C=C(C=C1)C(C(=O)OCC)C)OC | C12H17NO3
reactant | p-toluenesulfonic acid monohydrate | 6.006 mmol, 1.142 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium nitrite | 4.004 mmol, 276 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 5.005 mmol, 831 mg | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-iodo-3-methoxyphenyl)propanoate | 468 mg, 70% yield | IC1=C(C=C(C=C1)C(C(=O)OCC)C)OC | C12H15IO3
